US06706726B2
4.1.: Ethyl 3,3′,4,4′-tetrafluorobenzilate 3c
The Grignard reagent is prepared from 2.24 g (0.092 mol) of magnesium chips, a few granules of iodine and 17.80 g (0.092 mol) of 1-bromo-3,4-difluoro-benzene in 100 ml of THF at 50° C. After the halide has all been added, the mixture is stirred for another hour. The Grignard reagent thus obtained is added dropwise to 18.81 g (0.088 mol) of ethyl 3,4-difluorophenylglyoxylate in 80 ml of THF at 10°-15° C. and the mixture obtained is stirred for 2 hours at 5° C.

reactant | ethyl 3,4-difluorophenylglyoxylate | 0.088 mol, 18.81 g | FC=1C=C(C=CC1F)C(C(=O)OCC)=O | C10H8F2O3
solvent | THF | 80 ml | C1CCOC1 | C4H8O
product | Ethyl 3,3′,4,4′-tetrafluorobenzilate | FC=1C=C(C(C(=O)OCC)(O)C2=CC(=C(C=C2)F)F)C=CC1F | C16H12F4O3
